US04451484
A solution of potassium hydroxide (1.03 grams, 0.016 mole) in water (6.0 ml) was added to a stirred mixture of 2-(2-chloro-α,α,α-trifluoro-p-toluidino)-3-methylbutyric acid (4.62 grams, 0.016 mole, prepared by the method of C. A. Henrick, et al., Pest. Sci. 11, 224-41 (1980) in n-heptane (75.0 ml). The mixture was stirred until all the acid dissolved, at which time the water was distilled from the mixture. Additional n-heptane (50.0 ml) was added, followed by a solution of 1,4-diazobicyclo[2.2.2]octane (0.12 gram, 0.00097 mole) and (6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-yl)methyl p-methylphenylsulfonate in acetonitrile (40.0 ml). After complete addition, the mixture was stirred and heated at reflux for approximately 18 hours. The mixture was cooled, then evaporated to dryness under reduced pressure to leave a residue. The residue was partitioned between diethyl ether (250 ml) and water (150 ml) and the phases separated. The organic phase was washed in succession with aqueous 2% hydrochloric acid (two 50 ml portions), water (two 25 ml portions), aqueous 10% sodium carbonate (two 25 ml portions), and saturated aqueous sodium chloride (25 ml). The washed organic phase was dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated under reduced pressure to leave an oil. The oil was purified by column chromatography on silica gel (250 grams), n-heptane:toluene (30:70) as the eluant, to yield (6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-yl)methyl 2-(2-chloro-α,α,α-trifluoro-p-toluidino)-3-methylbutyrate (4.95 grams) as an oil.

reactant | potassium hydroxide | 0.016 mole, 1.03 grams | [OH-].[K+]
reactant | 2-(2-chloro-α,α,α-trifluoro-p-toluidino)-3-methylbutyric acid | ClC1=C(C=CC(=C1)NC(C(=O)O)C(C)C)C(F)(F)F | C12H13ClF3NO2
reactant | 1,4-diazobicyclo[2.2.2]octane | 0.00097 mole, 0.12 gram | C1CN2CCN1CC2 | C6H12N2
reactant | (6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-yl)methyl p-methylphenylsulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1=CC=CC2=C1CCCC1=C2C=CC=C1 | C23H22O3S
solvent | water | 6.0 ml | O | H2O
solvent | n-heptane | 75.0 ml | CCCCCCC | C7H16
solvent | acetonitrile | 40.0 ml | C(C)#N | C2H3N
product | (6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-yl)methyl 2-(2-chloro-α,α,α-trifluoro-p-toluidino)-3-methylbutyrate | 4.95 grams | ClC1=C(C=CC(=C1)NC(C(=O)OCC1=CC=CC2=C1CCCC1=C2C=CC=C1)C(C)C)C(F)(F)F | C28H27ClF3NO2
